US03957783
A mixture of 500 mg of 2-methylamino-3-(o-fluorobenzoyl)thiophene, 716 mg of ethyl carbamate and 44 mg of zinc chloride is heated at 200°C for 1 hour. After cooling, the reaction mixture is extracted with chloroform. The extracts are combined, washed with water, dried over sodium sulfate and concentrated to dryness under reduced pressure and, the residue is recrystallized from ethanol to give 1-methyl-4-(o-fluorophenyl)-1,2-dihyrothieno[2,3-d]pyrimidin-2-one as crystals having a melting point of 221.5° - 222°C.

reactant | 2-methylamino-3-(o-fluorobenzoyl)thiophene | 500 mg | CNC=1SC=CC1C(C1=C(C=CC=C1)F)=O | C12H10FNOS
reactant | ethyl carbamate | 716 mg | C(N)(OCC)=O | C3H7NO2
catalyst | zinc chloride | 44 mg | [Cl-].[Zn+2].[Cl-]
product | 1-methyl-4-(o-fluorophenyl)-1,2-dihyrothieno[2,3-d]pyrimidin-2-one | CN1C(N=C(C2=C1SC=C2)C2=C(C=CC=C2)F)=O | C13H9FN2OS
